US09403831B2
In a pressure tube reactor, ((S)-5-(1-((4-(5-bromopyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)-2-fluorobenzonitrile (50 mg, 0.10 mmol) was added, and then 1M Na2CO3 (0.31 mL, 0.31 mmol) was added. Pd(PPh3)4 (6 mg, 0.005 mmol) was further added, and 1,4-dioxane (1 mL) and 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzaldehyde (38 mg, 0.15 mmol) were added. The mixture was stirred at room temperature for 10 minutes under nitrogen gas, and then stirred at 105° C. for 3 hours. When the reaction was completed, the organic layer was extracted with ethyl acetate and water, and the extra water was removed by sodium sulfate, followed by concentration under reduced pressure. Solid was generated using ether and hexane, followed by filtration, to give (S)-2-fluoro-5-(1-((4-(5-(3-fluoro-4-formylphenyl)pyrimidin-2-yl)morpholin-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile (49 mg, 0.091 mmol) with a yield of 90%.

reactant | (S)-5-(1-((4-(5-bromopyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)-2-fluorobenzonitrile | 0.10 mmol, 50 mg | BrC=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=CC(=C(C#N)C2)F | C20H15BrFN9O
reactant | Na2CO3 | 0.31 mmol, 1M, 0.31 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzaldehyde | 0.15 mmol, 38 mg | FC1=C(C=O)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H16BFO3
catalyst | Pd(PPh3)4 | 0.005 mmol, 6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (S)-2-fluoro-5-(1-((4-(5-(3-fluoro-4-formylphenyl)pyrimidin-2-yl)morpholin-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile | 0.091 mmol, 49 mg, yield of 90% | FC1=C(C#N)C=C(C=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)C2=CC(=C(C=C2)C=O)F | C27H19F2N9O2
